US09422312B2
Step 1: 2-(4-Bromophenyl)-1,2-thiazolidine
A solution of tert.-Butyl hypochlorite (947 mg) in dichloromethane (15 mL) is added drop wise over a period of 1 h to a solution of trimethylene sulfide (0.63 mL) and 4-bromoaniline (1.50 g) in dichloromethane (60 mL) at −70° C. The reaction mixture is stirred for 15 min prior to the addition of a solution of 1,8-diazabycyclo[5.4.0]undec-7-ene (1.37 mL) in dichloromethane (10 mL). The reaction mixture is allowed to warm to −15° C. and quenched with water. The organic phase is separated, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 80:20-40:60) to give the title compound. LC (method 1): tR=1.16 min; Mass spectrum (ESI+): m/z=244, 246 [M+H]+.

reactant | tert.-Butyl hypochlorite | 947 mg | ClOC(C)(C)C | C4H9ClO
reactant | trimethylene sulfide | 0.63 mL | C1CCS1 | C3H6S
reactant | 4-bromoaniline | 1.50 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | undec-7-ene | 1.37 mL | CCCCCCC=CCCC | C11H22
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(4-Bromophenyl)-1,2-thiazolidine | BrC1=CC=C(C=C1)N1SCCC1 | C9H10BrNS
